US05705509
A stirred solution of 8-acetamido-1,4-benzodioxan-5-carboxylic acid (GB 1 571 278) (2.5 g, 0.0105 mole)in methanol (60 ml) was treated with concentrated sulphuric acid (2 ml) and the solution kept at room temperature for 20 hours, then concentrated in vacuo to approxiamately 10 ml volume. The residue was treated with water (30 ml), basified with potassium carbonate and a precipitate was produced. This was filtered off, washed with water and dried to afford methyl 8-amino-1,4-benzodioxan-5-carboxylate as a white solid (1.96 g, 89%). 1H NMR (CDCl3) δ:7.38(d,1 H), 6.28(d,1 H), 4.25-4.43(m,4 H), 4.12(br s,2 H), 3.83(s,3 H).

reactant | 8-acetamido-1,4-benzodioxan-5-carboxylic acid | 0.0105 mole, 2.5 g | C(C)(=O)NC1=CC=C(C2=C1OCCO2)C(=O)O | C11H11NO5
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 60 ml | CO | CH4O
product | methyl 8-amino-1,4-benzodioxan-5-carboxylate | 1.96 g, 89% | NC1=CC=C(C2=C1OCCO2)C(=O)OC | C10H11NO4
